US07358376B2
2-[(Aminocarbonyl)amino]-4-methyl-5-(4-hydroxyphenyl)-3-thiophenecarboxamide
Prepared by demethylating 2-[(aminocarbonyl)amino]-4-methyl-5-(4-methoxyphenyl)-3-thiophenecarboxamide using boron tribromide as in Example 9(a).

reactant | 2-[(aminocarbonyl)amino]-4-methyl-5-(4-methoxyphenyl)-3-thiophenecarboxamide | NC(=O)NC=1SC(=C(C1C(=O)N)C)C1=CC=C(C=C1)OC | C14H15N3O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 2-[(Aminocarbonyl)amino]-4-methyl-5-(4-hydroxyphenyl)-3-thiophenecarboxamide | NC(=O)NC=1SC(=C(C1C(=O)N)C)C1=CC=C(C=C1)O | C13H13N3O3S
